US08865029B2
2,2-Bis(4-methoxyphenyl)-5-(methoxycarbonyl)-6-hydroxy-[2H]-naphtho[1,2-b]pyran (U.S. Pat. No. 5,458,814) (0.225 g, 0.48 mmol) was dissolved in anhydrous THF (25 ml) under nitrogen. To this solution was added triethylamine (0.13 ml) followed by the Acid Chloride Terminated Polydimethylsiloxane (Example 1, Step 2) (0.358 g), dropwise. The mixture was stirred at room temperature for 2 hours. The reaction mixture was filtered through a short plug of silica gel and the solvent evaporated. The crude product (0.53 g) was then purified by column chromatography (silica gel, diethyl ether/hexane, 2:3→2:1) giving the bulk product, Naphthopyran Terminated Polydimethylsiloxane, as a viscous red oil. Analysis by 1H NMR gave an average molecular weight (Mn) of 2,297 (nPDMS=12.6). 1H NMR (200 MHz, d6-acetone) δ 8.40 (m, 2H), 7.95 (m, 2H), 7.63 (m, 4H), 7.45 (m, 8H), 6.97 (d, 2H), 6.88 (m, 8H), 6.41 (d, 2H), 4.23 (t, 4H), 3.95 (s, 6H), 3.75 (s, 12H), 3.62 (t, 4H), 3.41 (t, 4H), 3.04 (m, 4H), 2.80 (m, 4H), 1.60 (m, 4H), 0.58 (m, 4H), 0.13-0.08 (m, SiCH3).

reactant | 2,2-Bis(4-methoxyphenyl)-5-(methoxycarbonyl)-6-hydroxy-[2H]-naphtho[1,2-b]pyran | COC1=CC=C(C=C1)C1(C=CC2=C(O1)C1=CC=CC=C1C(=C2C(=O)OC)O)C2=CC=C(C=C2)OC | C29H24O6
reactant | triethylamine | 0.13 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | Naphthopyran | C1=CCOC2=C1C1=CC=CC=C1C=C2 | C13H10O
